US08623902B2
Preparation of 5-(2,6-dichloro-benzyl)-3,4-dihydro-2H-pyrrole
To a mixture of water (45 ml) and HCl conc. (45 ml) at reflux temperature was added dropwise during 15 minutes a solution of 3-[2-(2,6-dichloro-phenyl)-acetyl]-1-vinyl-pyrrolidin-2-one (2.98 g; 10 mmol), which was prepared as described in example P19, in THF (25 ml). The solution was concentrated to dryness on a rotary evaporator. The residue was dissolved in dichloromethane (20 ml), washed with water (2×30 ml) and dried over Na2SO4 and filtered through silicagel (5 g). After removal of the solvent 2.60 g (>100% of theory) of 5-(2,6-dichloro-benzyl)-3,4-dihydro-2H-pyrrole was obtained in form of a brown liquid.

reactant | water | 45 ml | O | H2O
reactant | HCl | 45 ml | Cl | ClH
reactant | 3-[2-(2,6-dichloro-phenyl)-acetyl]-1-vinyl-pyrrolidin-2-one | 10 mmol, 2.98 g | ClC1=C(C(=CC=C1)Cl)CC(=O)C1C(N(CC1)C=C)=O | C14H13Cl2NO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 5-(2,6-dichloro-benzyl)-3,4-dihydro-2H-pyrrole | ClC1=C(CC=2CCCN2)C(=CC=C1)Cl | C11H11Cl2N
